US03980780
Diphenyl-pyrimid-2-yl-imidazol-1-yl-methane
26.2 g (0.1 mol) of diphenyl-pyrimid-2-yl-carbinol are dissolved in 100 ml of absolute acetonitrile and treated with a solution of 0.15 mol of thionyldiimidazole in 200 ml of acetonitrile. The mixture is stirred for one hour at room temperature and subsequently heated to the boil for 10 minutes. It is then concentrated to about half its volume and diluted with ice water. The yellow oil which has precipitated is washed with water, taken up in methylene chloride and the solution dried. After concentration, a viscous residue remains which slowly crystallises. 16.0 g (41% of theory) of the compound of formula ##SPC10##

reactant | diphenyl-pyrimid-2-yl-carbinol | 0.1 mol, 26.2 g | C1(=CC=CC=C1)C(O)(C1=NC=CC=N1)C1=CC=CC=C1 | C17H14N2O
reactant | thionyldiimidazole | 0.15 mol | S(=O)(C=1NC=CN1)C=1NC=CN1 | C6H6N4OS
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | Diphenyl-pyrimid-2-yl-imidazol-1-yl-methane | C1(=CC=CC=C1)C(N1C=NC=C1)(C1=NC=CC=N1)C1=CC=CC=C1 | C20H16N4
